US05948911
Following the procedure of Example 1, the reaction of 3-chloro-4-methoxybenzylamine with 2,4-dichloro-6-methyl-thieno-[2,3-d]-pyrimidine yields 2-chloro-6-methyl-4-(3-chloro-4-methoxybenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 3-chloro-4-methoxybenzylamine | ClC=1C=C(CN)C=CC1OC | C8H10ClNO
reactant | 2,4-dichloro-6-methyl-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C)Cl | C7H4Cl2N2S
product | 2-chloro-6-methyl-4-(3-chloro-4-methoxybenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C)NCC2=CC(=C(C=C2)OC)Cl | C15H13Cl2N3OS
